US05760054
A stream of hydrogen chloride gas was dispersed through a stirred, ice cold solution of 0.383 g of 1,3-dihydro-1-(1-tert-butyloxycarbonylpiperidin-4-yl)-3-methyl-2H-benzimidazol-2-one in 500 mL of ethyl acetate for 30 min. Stirring was continued at 0° C. for 1 h, then at ambient temperature for 1 h. The suspension was partitioned between 250 mL of chloroform and 50 mL of saturated Na2CO3. Drying under reduced pressure gave 0.296 of 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one as an off-white solid.

reactant | hydrogen chloride | Cl | ClH
reactant | 1,3-dihydro-1-(1-tert-butyloxycarbonylpiperidin-4-yl)-3-methyl-2H-benzimidazol-2-one | 0.383 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(N(C2=C1C=CC=C2)C)=O | C18H25N3O3
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
